US07384934B2
2-(4,5-Di-fluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile
Combine 2-amino-benzo[b]thiophene-3-carbonitrile (3.93 g, 22.6 mmol), 2,4,5-trifluoro-nitrobenzene (4.0 g, 22.6 mmol) in 30 mL of THF, add sodium hydride (3.54 g, 88.5 mmol)) portionwise at 0˜5° C., after addition, the reaction stir overnight at RT, Pour the rection on ice water (200 mL), extract with dichloromethane (3×50 mL), the combined organic layer wash with water and brine, dry over Na2SO4. Concentrate down to a residue, purify by chromatography, gradient hexanes to hexane:CH2Cl2: EtOAc=5:5:0.5, obtain red orange solid 1.71 g as the title compound. 1H NMR (300 MHz, DMSO-d6): δ 10.34 (br, 1H), 8.41-8.35 (m, 1H), 7.96-7.94 (m, 1H), 7.85-7.79 (m, 1H), 7.64-7.61 (m, 1H), 7.52-7.49 (m, 1H), 7.42-7.36 (m, 1H).

reactant | 2-amino-benzo[b]thiophene-3-carbonitrile | 22.6 mmol, 3.93 g | NC1=C(C2=C(S1)C=CC=C2)C#N | C9H6N2S
reactant | 2,4,5-trifluoro-nitrobenzene | 22.6 mmol, 4.0 g | FC1=C(C=C(C(=C1)F)F)[N+](=O)[O-] | C6H2F3NO2
reactant | sodium hydride | 88.5 mmol, 3.54 g | [H-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(4,5-Di-fluoro-2-nitro-phenylamino)-benzo[b]thiophene-3-carbonitrile | 1.71 g | FC1=CC(=C(C=C1F)NC1=C(C2=C(S1)C=CC=C2)C#N)[N+](=O)[O-] | C15H7F2N3O2S
